US08431695B2
Step 1. Preparation of [3-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-carbamic acid tert-butyl ester
To a solution of [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-carbamic acid tert-butyl ester (7 g, 21 mmol) in DME (100 mL), 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (2.5 g, 11.7 mmol), PdCl2(dppf) complexed with CH2Cl2 (850 mg, 1.2 mmol) and 2 N Na2CO3 (12 mL) were added. The mixture was degassed for 20 min and was then heated to 80° C. for 23 hours. After cooling, the mixture was partitioned between EtOAc and H2O, and the organic layer was separated and dried. Biotage® chromatography (50-100% EtOAc) provided the title product as off white solid 2.6 g (76%). 1H NMR (300 MHz, DMSO-d6) δ 7.80-7.50 (m, 6 H), 7.20-7.0 (m, 3 H), 4.80 (s, 2 H), 1.30 (s, 9 H); ES-MS m/z 339 [M+H]+, HPLC RT (min) 2.41.

reactant | [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-carbamic acid tert-butyl ester | 21 mmol, 7 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C18H28BNO4
reactant | 7-bromo-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 11.7 mmol, 2.5 g | BrC1=CC=C2C(=NC=NN21)N | C6H5BrN4
reactant | CH2Cl2 | 1.2 mmol, 850 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 2 N, 12 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 100 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [3-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C1=CC=C2C(=NC=NN21)N)=O | C18H21N5O2
